US06140338
Synthesis of N-(1-hexylpiperidin-4-yl)xanthene-9-carboxamide
60 mg of potassium carbonate and 25 ml of iodohexane were successively added to 5.0 ml of acetonitrile suspension having 50 mg of N-(piperidin-4-yl)xanthene-9-carboxamide hydrochloride, followed by reflux under heating for 4 hours. After cooled to room temperature, water was added to the reaction solution, followed by extraction with ethyl acetate and drying over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, the obtained residue was purified by preparative thin layer chromatography (Kieselgel™60F254, Art5744 produced by Merck Co.: chloroform/methanol=10/1), and 35 mg of the title compound as a white solid was obtained.

reactant | potassium carbonate | 60 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodohexane | 25 ml | ICCCCCC | C6H13I
reactant | acetonitrile | 5.0 ml | C(C)#N | C2H3N
reactant | N-(piperidin-4-yl)xanthene-9-carboxamide hydrochloride | 50 mg | Cl.N1CCC(CC1)NC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12
solvent | water | O | H2O
product | N-(1-hexylpiperidin-4-yl)xanthene-9-carboxamide | 35 mg | C(CCCCC)N1CCC(CC1)NC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12 | C25H32N2O2
